US04683223
A mixture of 0.97 g of 6-chloropurine riboside, 0.7 g of 4-chromanylamine hydrochloride, and 0.94 g of triethylamine is refluxed in 30 ml ethanol under nitrogen for 20 hrs. The solvent is evaporated to dryness. The residual solid is treated with cold water. Clear aqueous solution is decanted off and the residue is dissolved in ethanol. Volatiles are evaporated under vacuuo. This is repeated once more affording 0.9 g (66%) of N6 -[4-chromanylamino]adenosine having a melting point of 125°-130° (foam).

reactant | 6-chloropurine riboside | 0.97 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | 4-chromanylamine hydrochloride | 0.7 g | Cl.O1CCC(C2=CC=CC=C12)N
reactant | triethylamine | 0.94 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N6 -[4-chromanylamino]adenosine | 0.9 g, 66% | O1CCC(C2=CC=CC=C12)NNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C19H22N6O5
